US04808605
1.7 g (4.99 mmol) of benzyl [3-(2-benzthiazolyl)propyl]methylcarbamate are dissolved at 0° in 40% hydrogen bromide in acetic acid and stirred at room temperature for 20 hours. Thereupon, 60 ml of ether are added and, after 1.5 hours, the precipitate formed is filtered off. After washing the crystalline precipitate with ether and drying there are obtained 1.71 g (93.1%) of 2-[3-(methylamino)propyl]benzthiazole dihydrobromide, m.p. 196°-197°.

reactant | benzyl [3-(2-benzthiazolyl)propyl]methylcarbamate | 4.99 mmol, 1.7 g | S1C(=NC2=C1C=CC=C2)CCCN(C(OCC2=CC=CC=C2)=O)C | C19H20N2O2S
reactant | ether | 60 ml | CCOCC | C4H10O
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-[3-(methylamino)propyl]benzthiazole dihydrobromide | 1.71 g, 93.1% | Br.Br.CNCCCC=1SC2=C(N1)C=CC=C2 | InChI=1S/C11H14N2S.2BrH/c1-12-8-4-7-11-13-9-5-2-3-6-10(9)14-11;;/h2-3,5-6,12H,4,7-8H2,1H3;2*1H
